US05489593
N,N'-Dimethyl-N-(3-nitro-2-pyridinyl)ethylenediamine
To a solution of N,N'-dimethylethylenediamine (3.2 ml) and potassium carbonate (830 mg) in acetonitrile (15 ml) stirred at 20°-25° under a nitrogen atmosphere is added a solution of 2-chloro-3-nitropyridine (500 mg) in acetonitrile (10 ml) over one hour. The mixture is concentrated under reduced pressure and partitioned between methylene chloride (75 ml) and water (25 ml). The phases are separated and the aqueous phase is extracted with methylene chloride (25 ml) and the total organics are dried with saline and sodium sulfate. Concentration under reduced pressure gives the title compound, NMR (CDCl3) 8.29, 8.10, 6.69, 3.85, 2.90, 2.88 and 2.46 δ.

reactant | N,N'-dimethylethylenediamine | 3.2 ml | CNCCNC | C4H12N2
reactant | potassium carbonate | 830 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-3-nitropyridine | 500 mg | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N,N'-Dimethyl-N-(3-nitro-2-pyridinyl)ethylenediamine | CN(CCNC)C1=NC=CC=C1[N+](=O)[O-] | C9H14N4O2
